US06462038B1
This compound was prepared according to General Method 19 (EXAMPLE 45) from (2R)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol (1.6 g, 70 mmol), trifluoroacetaldehyde ethyl hemiacetal (4.9 g, 34 mmol) and p-toluenesulfonic acid (0.13 g, 0.68 mmol) in 70 mL anhydrous benzene to afford 1.8 g (85%) of (4R)-3-(2-fluoro-4-nitrophenyl)-4-ethyl-2-trifluoromethyloxazolidine, after flash chromatography (gradient elution, hexanes:ethyl acetate 90:10 to 50:50). Data for (4R)-3-(2-fluoro-4-nitrophenyl)-4-ethyl-2-trifluoromethyloxazolidine: 1H NMR (500 MHz, CDCl3) δ 8.01 (m, 1H), 7.98 (m, 1H), 6.95 (dd, J=8.8, 8.8, 1H), 5.68 (m, 1H), 4.30 (m, 1H), 4.08 (m, 1H), 3.92 (m, 1H), 2.00 (m, 1H), 1.67 (m, 1H), 0.97 (t, J=7.8, 3H).

reactant | (2R)-2-(2-fluoro-4-nitrophenyl)amino-1-butanol | 70 mmol, 1.6 g | FC1=C(C=CC(=C1)[N+](=O)[O-])N[C@@H](CO)CC | C10H13FN2O3
reactant | trifluoroacetaldehyde ethyl hemiacetal | 34 mmol, 4.9 g | C(C)OC(C(F)(F)F)O | C4H7F3O2
reactant | p-toluenesulfonic acid | 0.68 mmol, 0.13 g | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | benzene | 70 mL | C1=CC=CC=C1 | C6H6
product | (4R)-3-(2-fluoro-4-nitrophenyl)-4-ethyl-2-trifluoromethyloxazolidine | 1.8 g, 85% | FC1=C(C=CC(=C1)[N+](=O)[O-])N1C(OC[C@H]1CC)C(F)(F)F | C12H12F4N2O3
